US06982348B2
1) 4-{(1RS,2SR)-2-amino-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenol
To a solution of (1RS,2SR)-2-amino-1-[4-(benzyloxy)phenyl]-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-propan-1-ol (2.60 g, 5.79 mmol) in ethanol (20 ml) was added 10% palladium/carbon (containing water by 50%, 260 mg), and the mixture was stirred overnight under a hydrogen stream. The catalyst was removed from the reaction solution using celite, and the filtrate was concentrated. The residue was purified neutral alumina column chromatography (ethanol) to give the objective substance (0.80 g, 39%) as an amorphous compound.

reactant | (1RS,2SR)-2-amino-1-[4-(benzyloxy)phenyl]-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-propan-1-ol | 5.79 mmol, 2.60 g | NC(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C24H23F4NO3
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 260 mg | [Pd] | Pd
product | 4-{(1RS,2SR)-2-amino-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenol | NC(C(O)C1=CC=C(C=C1)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C17H17F4NO3
